US06747048B2
3,5-Dichloro-2-methoxy-4-(3-isopropyl-4-hydroxyphenoxy)-6-hydroxycarbonylmethylaminopyridine
To a solution of 3,5-dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethylamino-pyridine (161 mg) in methanol (3.0 mL) was added a solution of sodium methoxide in methanol (0.5 M, 1.0 mL). The resulting mixture was stirred at ambient temperature for 18 hours, followed by stirring at 80° C. for 5 hours. Cooled reaction mixture was then diluted with 1 N HCl (50 mL) and extracted with ethyl acetate (50 mL×2). The combined organic layers were dried (Na2SO4) and concentrated. The dried crude product was dissolved in CH2Cl2 (3.0 mL) and treated with a solution of BBr3 in CH2Cl2 (1 mL, 1.0 M) at ambient temperature. The resulting mixture was stirred for 1 hour, poured to stirring water (50 mL), extracted with CH2C2 (20 mL×3) from water, dried (Na2SO4) and concentrated to dryness under reduced pressure. The residue was dissolved in THF:MeOH:H2)=3:1:1 (3 mL), treated with LiOH in one portion (50 mg) and stirred at ambient temperature for 1 hour. The reaction mixture was diluted with a 1.0 M solution of HCl (50 mL), extracted with ethyl acetate (50 mL×3), dried (Na2SO4) and concentrated under reduced pressure. Purification by HPLC afforded the title compound as a white solid (30 mg).

reactant | 3,5-dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethylamino-pyridine | 161 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)NCC(=O)OC)F | C18H19Cl2FN2O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 3.0 mL | CO | CH4O
reactant | methanol | 0.5 M, 1.0 mL | CO | CH4O
solvent | HCl | 1 N, 50 mL | Cl | ClH
product | 3,5-Dichloro-2-methoxy-4-(3-isopropyl-4-hydroxyphenoxy)-6-hydroxycarbonylmethylaminopyridine | 30 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)O)C(C)C)Cl)NCC(=O)O)OC | C17H18Cl2N2O5
